US04933367
12 g (41 mmol) of ethyl 7-(4-chlorophenyl)-2-cyanoheptanoate and 96 g of polyphosphoric acid are heated for 3 hours at 100° C. with stirring. Then the mixture is diluted with 200 ml of water and extracted thrice with methylene chloride. The combined extracts are washed with water, dried and concentrated. 10 g (78% of theory) of ethyl 2-(aminocarbonyl)-7-(4-chlorophenyl)heptanoate is obtained, M.P. 110°-111° C.

reactant | ethyl 7-(4-chlorophenyl)-2-cyanoheptanoate | 41 mmol, 12 g | ClC1=CC=C(C=C1)CCCCCC(C(=O)OCC)C#N | C16H20ClNO2
reactant | water | 200 ml | O | H2O
product | ethyl 2-(aminocarbonyl)-7-(4-chlorophenyl)heptanoate | 10 g, 78% | NC(=O)C(C(=O)OCC)CCCCCC1=CC=C(C=C1)Cl | C16H22ClNO3
